US05602246
Example 9a: 2-Fluoroadenosine
Anhydrous ammonia was bubbled through a magnetically stirred suspension of 2-fluoro-2',3',5'-tri-O-acetyl-adenosine (2.10 g, 5.1 mmol) in absolute ethanol (500 mL) cooled in an ice-water bath. After 30 min the mixture became homogenous so the addition of ammonia was stopped. The container was tightly stoppered and was stored at 4° C. for days, then the mixture was concentrated under vacuum. The residue was recrystallized twice from ethanol and dried to obtain 1.32 g (90%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ 3.5-3.75 (m, 2H), 3.96 (q, 1H), 4.15 (q, 1H), 4.54 (q, 1H), 5.09 (t, 1H), 5.32 (d, 1H), 5.50 (d, 1H), 5.81, (d, 1H), 7.9 (bs, 2H), 8.38 (s, 1H); FT-IR (KBr) 3323, 1688, 1617, 1368 cm-1 ; UV (ethanol) λmax 262 nm.

reactant | ammonia | N | H3N
reactant | 2-fluoro-2',3',5'-tri-O-acetyl-adenosine | 5.1 mmol, 2.10 g | FC=1N=C(C=2N=CN([C@H]3[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](COC(C)=O)O3)C2N1)N | C16H18FN5O7
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-Fluoroadenosine | 1.32 g, 90% | FC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12FN5O4
